US08486967B2
gii) 5-Chloro-2-(3,4-difluorophenyl)pentanoic acid
To a solution of 3,4-difluorophenylacetic acid (5.00 g, 29.0 mmol) in THF (58 mL) was added NaHMDS (1 M in THF, 58.1 mL, 58.1 mmol) dropwise at 0° C. The reaction mixture was then stirred at 0° C. for 20 min, then 1-chloro-3-iodopropane (3.12 mL, 29.0 mmol) was added dropwise at 0° C. and the reaction mixture was stirred at room temperature for 16 hours. The mixture was then quenched under ice bath cooling with water (3 mL) and evaporated. To the residue was added NaOH (1 N, 150 mL) and the resulting solution was extracted with diethylether (2×100 mL). The aqueous layer was acidified with HCl (1 N, 200 mL) and extracted with diethylether (2×100 mL). The combined organic layers were then dried over sodium sulfate, filtered and evaporated. Purification by chromatography (silica gel, 2×50 g, 0 to 50% ethyl acetate in heptane) afforded the title compound (2.02 g, 28%) as a light yellow oil.

reactant | 3,4-difluorophenylacetic acid | 29.0 mmol, 5.00 g | FC=1C=C(C=CC1F)CC(=O)O | C8H6F2O2
reactant | NaHMDS | 58.1 mmol, 1 M, 58.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1-chloro-3-iodopropane | 29.0 mmol, 3.12 mL | ClCCCI | C3H6ClI
solvent | THF | 58 mL | C1CCOC1 | C4H8O
product | 5-Chloro-2-(3,4-difluorophenyl)pentanoic acid | 2.02 g, 28% | ClCCCC(C(=O)O)C1=CC(=C(C=C1)F)F | C11H11ClF2O2
